US07371754B2
Step D: 2-[(1,4-dimethyl-3,6-dioxopiperazin-2-yl)methyl]benzyl chloride
A solution of 3-[2-(hydroxymethyl)benzyl]-1,4-dimethylpiperazine-2,5-dione (1.48 g, 5.64 mmol) and Et3N (1.57 ml, 11.28 mmol) in DMF was cooled to 0° C. Mesyl chloride was added via syringe at 0° C. and the stirring reaction allowed to warm to ambient temperature via bath melting overnight. More Et3N (2 equivalents) and mesyl chloride (1.1 equivalents) was added at 0° C. and the stirring reaction allowed to warm to ambient temperature via bath melting for 6 hours. LiCl (478 mg, 11.28 mmol) was added and the reaction stirred at ambient temperature for 1.5 hours. The mixture was partitioned between NH4Cl and EtOAc and extracted with EtOAc (3×). The combined organic solutions were washed with brine, dried over Na2SO4 and concentrated. The crude product was purified by normal phase chromatography (0-3% MeOH(NH3)/CH2Cl2) to give a yellow oil (1.47 g).

reactant | 3-[2-(hydroxymethyl)benzyl]-1,4-dimethylpiperazine-2,5-dione | 5.64 mmol, 1.48 g | OCC1=C(CC2C(N(CC(N2C)=O)C)=O)C=CC=C1 | C14H18N2O3
reactant | Et3N | 11.28 mmol, 1.57 ml | CCN(CC)CC | C6H15N
reactant | Mesyl chloride | S(=O)(=O)(C)Cl | CH3ClO2S
reactant | Et3N | 2 equivalents | CCN(CC)CC | C6H15N
reactant | mesyl chloride | 1.1 equivalents | S(=O)(=O)(C)Cl | CH3ClO2S
reactant | LiCl | 11.28 mmol, 478 mg | [Li+].[Cl-]
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-[(1,4-dimethyl-3,6-dioxopiperazin-2-yl)methyl]benzyl chloride | 1.47 g | CN1C(C(N(CC1=O)C)=O)CC1=C(CCl)C=CC=C1 | C14H17ClN2O2
